US05254595
Following the procedure described in Example 27, but starting from 7-(2,3-epoxypropoxy)phtalide (20.6 g), obtained from 7-hydroxyphtalide and epichlorohydrin according to the teaching of Belgian Patent 815,745, and 2-aminotetralin (14.81 g) in absolute ethanol (125 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-phtalid-7-yloxypropanamine hydrochloride is obtained ((iF): L"=H, E" and G" taken together, form a group --CO--O--CH2 --, R=H, and the chain is attached to position 2 of the tetralin moiety).

reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-phtalid-7-yloxypropanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC=1C=CC=C2COC(=O)C12)O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.81 g | NC1CC2=CC=CC=C2CC1 | C10H13N
